* MODELLING FOR STW13NK100Z
 
.SUBCKT STW13NK100Z 1 2 3
LG 2 4  7.5n
LS 12 3 7.5n
LD 6 1  4.5n
RG 4 5  1.494
RS 9 12 0.794E-02
RD 7 6  0.401
RJ 8 7  0.119E-01
CGS 5 9   0.537E-08
CGD 7 10  0.725E-08
CK  11 7  0.796E-10
DGD 11 7 DGD
DBS 12 6 DBS
DBD  9 7 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  8 13 POLY(2) 6 8 6 12 0 0 0 0  0.219E-01
G1  0 100 7 5 1u
D1  100 101  DID
D2  102 100  DID
R1  101 0  1MEG
R2  102 0  1MEG
.ENDS STW13NK100Z
 
.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 4.739
+ PHI   = 0.912
+ IS    = 0.1E-12
+ JS    = 0
+ THETA = 0.469E-01
+ KP    = 20.862
 
.MODEL DGD D
+ IS    = 0.1E-12
+ CJO   = 0.642E-10
+ VJ    = 0.788
+ M     = 0.318
.MODEL DBD D
+ IS    = 0.1E-12
+ CJO   = 0.271E-10
+ VJ    = 0.781
+ M     = 0.347
.MODEL DBS D
+ IS    = 0.1E-12
+ BV    = 1069
+ N     = 1
+ TT    = 0.949E-06
+ RS    = 0.538E-02
.MODEL DID D
+ IS    = 0.01E-12
+ RS    = 0
+ BV    = 1079
* END OF MODELLING
